US07407955B2
1-methyl-3-trifluoromethyl-isoquinoline
Prepared by treating 905 mg of 1-chloromethyl-3-trifluoromethyl-3,4-dihydro-isoquinoline with 420 mg of potassium-tert. butoxide in 10 ml of tetrahydrofuran at ambient temperature.

reactant | 1-chloromethyl-3-trifluoromethyl-3,4-dihydro-isoquinoline | 905 mg | ClCC1=NC(CC2=CC=CC=C12)C(F)(F)F | C11H9ClF3N
reactant | potassium-tert. butoxide | 420 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-methyl-3-trifluoromethyl-isoquinoline | CC1=NC(=CC2=CC=CC=C12)C(F)(F)F | C11H8F3N
